US06759414B2
A. N-(5-Chloropyridin-2-yl)-2-nitrobenzamide
To a stirring solution of 2-amino-5-chloropyridine (3.7 g, 29 mmol) and pyridine (7.3 mL, 90 mmol) in dichloromethane was added 2-nitrobenzoyl chloride (5.7 g, 30 mmol). After stirring for 4 h, the solvents were removed in vacuo and the residue partitioned between ethyl acetate and water. The organic phase was washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. After standing at room temperature overnight, the mixture was filtered to give 6.4 g (79%) of a white solid.

reactant | 2-amino-5-chloropyridine | 29 mmol, 3.7 g | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | pyridine | 90 mmol, 7.3 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-nitrobenzoyl chloride | 30 mmol, 5.7 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(5-Chloropyridin-2-yl)-2-nitrobenzamide | 6.4 g, 79% | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C12H8ClN3O3
